US07612242B2
Addition of CF3CF2OF to CHCl═CCl2
The reaction is carried out for 3 hours. The raw product (65.0 g) is analyzed by GLC/MS. The hypofluorite conversion is 100% and the selectivity in the two reaction products CF3CF2O—CHCl—CFCl2 and CF3CF2O—CCl2—CHClF is equal to 61%.

reactant | hypofluorite | F[O-]
reactant | CF3CF2O—CHCl—CFCl2 | C(F)(F)(F)C(F)(F)OC(Cl)C(F)(Cl)Cl | C4HCl3F6O
reactant | CF3CF2O—CCl2—CHClF | C(F)(F)(F)C(F)(F)OC(Cl)(Cl)C(Cl)F | C4HCl3F6O
product | CF3CF2OF | C(F)(F)(F)C(F)(F)OF | C2F6O
